US04198420
A mixture of 3.0 g of 2-fluoro-10,11-dihydro-1'-methyl-11-oxospiro[dibenz(b,f)thiepin-10,4'-piperidine], free base of Example 26, in 10 ml of methylene chloride is added portionwise to a mixture of 1.3 g of cyanogen bromide and 6.4 g of potassium carbonate in 17 ml of methylene chloride. After total addition, the mixture is stirred at reflux for 2 hours and then permitted to cool to ambient temperature. Thereafter, the mixture is filtered and then evaporated to dryness and the residue is taken up in methyl alcohol. The alcoholic solution is refluxed before the addition of acetone and ether, effecting a precipitate. The mixture is filtered and the supernatant liquid is evaporated. The residue is chromatographed through a silica gel column and eluted with an ether-methylene chloride (1:1) mixture, to provide 1'-cyano-2-fluoro-10,11-dihydro-11-oxospiro[dibenz(b,f)thiepin-10,4'-piperidine].

reactant | 2-fluoro-10,11-dihydro-1'-methyl-11-oxospiro[dibenz(b,f)thiepin-10,4'-piperidine] | 3.0 g | FC1=CC2=C(SC3=C(C=CC=C3)C3(CCN(CC3)C)C2=O)C=C1 | C19H18FNOS
reactant | cyanogen bromide | 1.3 g | N#CBr | CBrN
reactant | potassium carbonate | 6.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 17 ml | C(Cl)Cl | CH2Cl2
product | 1'-cyano-2-fluoro-10,11-dihydro-11-oxospiro[dibenz(b,f)thiepin-10,4'-piperidine] | C(#N)N1CCC2(CC1)C(C1=C(SC3=C2C=CC=C3)C=CC(=C1)F)=O | C19H15FN2OS
